US07867581B2
Polymerization of Tetracyclo[4.4.12,5. 17,10.0]-3-Dodecene (Norbornene Monomer J)
Under a nitrogen atmosphere, an anhydrous toluene solution (2 ml) containing 1-hexene (75 μl: 6.0 mol %) and a Grubbs I catalyst (4.1 mg: 0.05 mol %) was added to an anhydrous toluene solution (23 ml) containing the norbornene monomer J (1.60 g: 10.0 mmol), and stirred at room temperature for 20 hours. However, the reaction system was heterogeneous, and a polymer was precipitated. The obtained polymer (pO) was insoluble to chloroform, THF, and the like.

reactant | 1-hexene | 75 μl | C=CCCCC | C6H12
reactant | norbornene | C12C=CC(CC1)C2 | C7H10
catalyst | Grubbs I | 4.1 mg | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
solvent | toluene | 23 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Dodecene | CCC=CCCCCCCCC | C12H24
